### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix): scalar if commutes with every nontrivial transvection

### PR DESCRIPTION
**Pull request by shuxuezhuyi**
`M` is a scalar matrix if it commutes with every nontrivial transvection (elementary matrix).

Also adds `iff` versions and corrects the names of the lemmas in #7810

Co-authored-by: Eric Wieser <wieser.eric@gmail.com>

---

- [x] depends on: #7810

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/LinearAlgebra/Matrix/Transvection.lean [hunk 1]
```diff
@@ -236,6 +236,14 @@ theorem prod_mul_reverse_inv_prod (L : List (TransvectionStruct n R)) :
     simp_rw [IH, Matrix.mul_one, t.mul_inv]
 #align matrix.transvection_struct.prod_mul_reverse_inv_prod Matrix.TransvectionStruct.prod_mul_reverse_inv_prod
 
+/-- `M` is a scalar matrix if it commutes with every nontrivial transvection (elementary matrix).-/
+theorem mem_range_scalar_of_commute_TransvectionStruct {M : Matrix n n R}
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Transvection.lean:240]:
```suggestion
theorem mem_range_scalar_of_commute_transvectionStruct {M : Matrix n n R}
```

**Review by eric-wieser — APPROVED** [review]
LGTM! I pushed some extra variations, so probably shouldn't be the one to merge this.

File: Mathlib/Data/Matrix/Basis.lean [hunk 2]
```diff
@@ -255,8 +257,12 @@ theorem mem_range_scalar_of_commute_stdBasisMatrix {M : Matrix n n α}
     · rw [col_eq_zero_of_commute_stdBasisMatrix (hM k i hkl.symm) hkl]
     · rw [row_eq_zero_of_commute_stdBasisMatrix (hM i j hij) hkl.symm]
 
-end Commute
+theorem mem_range_scalar_iff_commute_stdBasisMatrix {M : Matrix n n α} :
+    M ∈ Set.range (Matrix.scalar n) ↔ ∀ (i j : n), i ≠ j → Commute (stdBasisMatrix i j 1) M := by
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Basis.lean:261]: Seems like it might be useful to have a version without the condition `i ≠ j` for convenience.

**Review by j-loreaux — COMMENTED** [review]
Just one more lemma for convenience would be nice.

File: Mathlib/Data/Matrix/Basis.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/Data/Matrix/Basis.lean:261]: For the forward direction you can replace `stdBasisMatrix i j 1` by any square matrix :)

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basis.lean:261]: Surely only if `α`is commutative? Or are we already in that case?

Comment (alreadydone) [reply Mathlib/Data/Matrix/Basis.lean:261]: Apparently not; my bad!

Comment (shuxuezhuyi) [reply Mathlib/Data/Matrix/Basis.lean:261]: Now we have `mem_range_scalar_iff_commute_stdBasisMatrix'` for this purpose.

File: Mathlib/Data/Matrix/Basis.lean [hunk 3]
```diff
@@ -255,8 +257,20 @@ theorem mem_range_scalar_of_commute_stdBasisMatrix {M : Matrix n n α}
     · rw [col_eq_zero_of_commute_stdBasisMatrix (hM hkl.symm) hkl]
     · rw [row_eq_zero_of_commute_stdBasisMatrix (hM hij) hkl.symm]
 
-end Commute
+theorem mem_range_scalar_iff_commute_stdBasisMatrix {M : Matrix n n α} :
+    M ∈ Set.range (Matrix.scalar n) ↔ ∀ (i j : n), i ≠ j → Commute (stdBasisMatrix i j 1) M := by
+  refine ⟨fun ⟨r, hr⟩ i j _ => hr ▸ Commute.symm ?_, mem_range_scalar_of_commute_stdBasisMatrix⟩
+  rw [scalar_commute_iff, smul_stdBasisMatrix, smul_stdBasisMatrix, smul_eq_mul, op_smul_eq_mul,
+    mul_one, one_mul]
```
Comment (shuxuezhuyi) [inline Mathlib/Data/Matrix/Basis.lean:264]:
```suggestion
  rewrite [scalar_commute_iff]
  simp
```
I find it convenient to have `simp` simplify it.

File: Mathlib/Data/Matrix/Basis.lean [hunk 4]
```diff
@@ -263,6 +263,14 @@ theorem mem_range_scalar_iff_commute_stdBasisMatrix {M : Matrix n n α} :
   rw [scalar_commute_iff, smul_stdBasisMatrix, smul_stdBasisMatrix, smul_eq_mul, op_smul_eq_mul,
     mul_one, one_mul]
 
+/-- `M` is a scalar matrix if and only if it commutes with every `stdBasisMatrix`.​ -/
+theorem mem_range_scalar_iff_commute_stdBasisMatrix' {M : Matrix n n α} :
+    M ∈ Set.range (Matrix.scalar n) ↔ ∀ (i j : n), Commute (stdBasisMatrix i j 1) M := by
+  refine ⟨fun ⟨r, hr⟩ i j => hr ▸ Commute.symm ?_,
+    fun hM => mem_range_scalar_iff_commute_stdBasisMatrix.mpr <| fun i j _ ↦ hM i j⟩
+  rewrite [scalar_commute_iff]
+  simp
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basis.lean:272]: Does this work as `simp [scalar_commute_iff]`?

File: Mathlib/Data/Matrix/Basis.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basis.lean:264]: Note that mathlib prefers `rw` over `rewrite`

Comment (shuxuezhuyi) [reply Mathlib/Data/Matrix/Basis.lean:264]: Because `rw [scalar_commute_iff]` didn't close the goal, I used `rewrite` instead.

File: Mathlib/Data/Matrix/Basis.lean (hunk 4 above)
Comment (shuxuezhuyi) [reply Mathlib/Data/Matrix/Basis.lean:272]: Sadly no.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

**Comment by jcommelin** [comment]
bors r-

bors d+
